US08389508B2
To a solution of [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]acetaldehyde (D52) (110 mg, 0.274 mmol) in Dichloromethane (DCM) (10 mL) was added sodium acetate (33.8 mg, 0.412 mmol) and hydrogen chloride-methyl L-prolinate (1:1) (68.2 mg, 0.412 mmol). After 5 minutes, sodium triacetoxyborohydride (87 mg, 0.412 mmol) was added and the reaction solution was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was hydrolized by NaOH (2.74 mL, 1.372 mmol) in isopropanol/water (10 mL, 1:1). The residue was purified by Mass Directed AutoPrep to afford 1-{2-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]ethyl}-L-proline (E65) (56 mg) as a TFA salt.

reactant | [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]acetaldehyde | 0.274 mmol, 110 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CC=O)CC | C21H21ClN2O2S
reactant | sodium acetate | 0.412 mmol, 33.8 mg | C(C)(=O)[O-].[Na+]
reactant | hydrogen chloride methyl L-prolinate | 0.412 mmol, 68.2 mg | Cl.N1[C@H](C(=O)OC)CCC1
reactant | sodium triacetoxyborohydride | 0.412 mmol, 87 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1.372 mmol, 2.74 mL | [OH-].[Na+]
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | isopropanol water | 10 mL | C(C)(C)O.O
product | 1-{2-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]ethyl}-L-proline | 56 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CCN1[C@H](C(=O)O)CCC1)CC | C26H30ClN3O3S
